US05098900
4-Chloro-5-(3-benzyloxybenzylamino)-2-i-propyl-3-(2H)pyridazinone (Compound No. 95)
A mixture comprising 8.24 g of 3-benzyloxybenzylamine hydrochloride prepared in Reference Example 2A, 3.11 g of 2-i-propyl-4,5-dichloro-3(2H)pyridazinone, 7.26 g of potassium carbonate, 30 ml of 1,4-dioxane and 90 ml of water was refluxed under stirring for 4.5 hours. The majority of 1,4-dioxane was distilled off under reduced pressure, and the residue was extracted with ethyl acetate. The extract was washed with diluted hydrochloric acid, and then treated with cerite to remove the precipitate. The organic layer was separated, and washed with water and a saturated sodium chloride aqueous solution, and then dried over sodium sulfate. Then, the solvent was distilled off. The pale yellow oily substance thereby obtained was crystallized from ether-n-hexane to obtain 2.51 g of the above identified compound having a melting point of from 106° to 108° C. as colorless crystals.

reactant | 3-benzyloxybenzylamine hydrochloride | 8.24 g | Cl.C(C1=CC=CC=C1)OC=1C=C(CN)C=CC1
reactant | 2-i-propyl-4,5-dichloro-3(2H)pyridazinone | 3.11 g | C(C)(C)N1N=CC(=C(C1=O)Cl)Cl | C7H8Cl2N2O
reactant | potassium carbonate | 7.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | water | 90 ml | O | H2O
product | 4-Chloro-5-(3-benzyloxybenzylamino)-2-i-propyl-3-(2H)pyridazinone | ClC=1C(N(N=CC1NCC1=CC(=CC=C1)OCC1=CC=CC=C1)C(C)C)=O | C21H22ClN3O2
